US07612079B2
(2RS, 3R)-3-(6-Benzylamino-9-isopropyl-9H-purin-2-ylamino)-pentan-2-ol
To a stirred solution of benzyl-(2-fluoro-9-isopropyl-9H-purin-6-yl)-amine (0.34 g, 1.19 mmol) in BunOH/DMSO (5 mL, 4:1) at RT under Ar was added Pri2NEt (2.0 mL, 11.48 mmol) followed by (2RS,3R)-3-amino-pentan-2-ol (0.16 g, 1.55 mmol). The reaction mixture was placed in a preheated oil bath at 140° C. and stirred at this temperature for 48 h, when TLC (55:40:5 CH2Cl2 Et2O/MeOH) indicated the appearance of a lower running product together with some desired product. The reaction mixture was allowed to cool to RT and the solvent was evaporated in vacuo. The residue was partitioned between CH2Cl2 (100 mL) and H2O (200 mL), the aqueous phase was extracted with more CH2Cl2 (3×50 mL), and the combined organic phase was washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by gradient column chromatography on silica gel eluted with CH2Cl2/Et2O/MeOH (60:40:0→60:40:4) to afford thee title compound as a white solid (0.03 g, 7%). Mp 43-46° C. 1H-NMR (d6-DMSO, 250 MHz): δ 0.75-0.85 (m, 3H, —NHCH(CH2CH3)CH(CH3)OH), 0.95-1.03 (m, 3H, —NHCH(CH2CH3)CH(CH3)OH) 1.19-1.77 (m, 8H, —NHCH(CH2CH3)CH(CH3)OH+CH(CH3)2), 3.60+3.73 (2×m, 1H, —NHCH(CH2CH3)CH(CH3)OH), 4.44-4.78 (m, 4H, —HNCH2-Bz+—NHCH(CH2CH3)CH(CH3)OH+—CH(CH3)2), 5.57+5.87 (2×d, 1H, J=9.958+7.74 Hz, —NHCH(CH2CH3)CH(CH3)OH), 7.18-7.36 (m, 5H, Bz), 7.77 (bs, 2H, —N═CH—N—+—HNCH2-Bz). FAB-MS m/z (relative intensity): 369 ([M+H]+, 100), 323 (96), 233 (30). Accurate Mass (M+H): Actual: 369.2403, Measured: 369:2393 Microanalysis (Expected:Measured) C20H28N6O.0.5H2O: C, 63.64:64.17; H, 7.74:7.56; N, 22.26:21.38.

reactant | benzyl-(2-fluoro-9-isopropyl-9H-purin-6-yl)-amine | 1.19 mmol, 0.34 g | C(C1=CC=CC=C1)NC1=C2N=CN(C2=NC(=N1)F)C(C)C | C15H16FN5
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
reactant | (2RS,3R)-3-amino-pentan-2-ol | 1.55 mmol, 0.16 g | N[C@@H](C(C)O)CC | C5H13NO
solvent | CH2Cl2 Et2O MeOH | C(Cl)Cl.CCOCC.CO
product | (2RS, 3R)-3-(6-Benzylamino-9-isopropyl-9H-purin-2-ylamino)-pentan-2-ol | C(C1=CC=CC=C1)NC1=C2N=CN(C2=NC(=N1)N[C@@H](C(C)O)CC)C(C)C | C20H28N6O
